US07842696B2
DIPEA (155 mg, 0.2 mL, 1.19 mmol) was added to a stirred solution of 4-Phenyl-1H-pyrrole-2-carboxylic acid (50 mg, 0.26 mmol) in DMF (4 mL). HOBT (40 mg, 0.29 mmol) and EDCI (153 mg, 0.79 mmol) were then added at room temperature. After 2 minutes, 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt (prepared by the method as described above) (103 mg, 0.29 mmol) was added and the resulting mixture was stirred at room temperature for 4 hrs. Cold water was then added and filtered the solid precipitated to afford 113 mg (87.59% yield) of 4-phenyl-1H-pyrrole-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide. LCMS Purity: 92.52%. 1H NMR (DMSO-d6): δ 11.6 (s, 1H), 8.2-8.1 (bs, 1H), 7.9-7.72 (m, 2H), 7.7-7.64 (t, 1H), 7.6-7.5 (d, 3H), 7.38-7.28 (t, 3H), 7.24-7.1 (m, 2H), 4.2-4.04 (bd, 2H), 3.82-3.56 (m, 4H), 3.5-3.4 (bs, 2H), 3.2-3.1 (bd, 2H).

reactant | DIPEA | 1.19 mmol, 0.2 mL, 155 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-Phenyl-1H-pyrrole-2-carboxylic acid | 0.26 mmol, 50 mg | C1(=CC=CC=C1)C=1C=C(NC1)C(=O)O | C11H9NO2
reactant | HOBT | 0.29 mmol, 40 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.79 mmol, 153 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone hydrochloride salt | Cl.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-phenyl-1H-pyrrole-2-carboxylic acid {2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-amide | 113 mg, 87.59% yield | O=C(CNC(=O)C=1NC=C(C1)C1=CC=CC=C1)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O | C25H23F3N4O3
